### PR TITLE
feat(Units): component lemmas for the Exponent power of a dimension

### LINKED ISSUE #1580: Unascribed rational dimension exponents default to `ℕ`, silently making `L𝓭 ^ (1/2)` dimensionless
An unascribed numeric exponent on a `Dimension` elaborates at `ℕ`, where `1/2` truncates to `0`.
A half-power of length is therefore silently dimensionless rather than a type error or a genuine
square root:

```lean
import Physlib.Units.LTMCTDimensionBase
open Dimension

example : L𝓭 ^ (1/2) = 1 := rfl   -- succeeds
```

`Dimension` carries two `Pow` instances — `Monoid.npow` at `ℕ` from the `CommGroup`, and
`Pow (Dimension B) ℚ` — and neither is a `default_instance`, so Lean's numeral defaulting reaches
`ℕ` first. Writing `L𝓭 ^ (1/2 : ℚ)` gives the intended meaning; omitting the ascription does not,
and nothing flags the difference.

This seems worth fixing because it is the failure mode the library exists to prevent: the wrong
answer is well-typed, definitionally equal to `1`, and carries no diagnostic. A user writing a
square root of an area gets a dimensionless quantity and no indication that anything happened.

## Not a regression

Present on `4a4de62f`, before #1579. Both `Pow` sources and the absence of any `default_instance`
are unchanged from that commit, and the reproduction above succeeds there.

## Fix

One attribute on the rational power:

```lean
attribute [default_instance 10000] Dimension.instPowRat
```

`#check (L𝓭 ^ (1/2))` then reports `L𝓭 ^ (1 / 2 : ℚ)`, and
`(L𝓭 ^ (1/2)).exponent .length = Exponent.ofRat (1/2)` holds. Priority matters: at the default
priority, and at `2000`, `instOfNatNat` still wins and the expression stays at `ℕ`.

Which instance should carry the attribute depends on #1579:

- **without** the `Exponent`-valued power — put it on `Pow (Dimension B) ℚ`. Correct semantics; a
  concrete rational power still does not reduce, because `Exponent.ofRat` wraps a rational whose
  own arithmetic is irreducible.
- **with** an `Exponent`-valued power (as in the patch offered on #1579) — put it on that instance
  instead. Correct semantics *and* `L𝓭 ^ (1/2) * L𝓭 ^ (1/2) = L𝓭` holds by `rfl`.

The two are mutually exclusive; the second is strictly better if it is available.

> [!NOTE]
> **Decided.** #1579 merged as `3405d86d` taking the second route: the attribute sits on an
> `Exponent`-valued power. On master `d ^ (1/2)` is an `Exponent` power, and the symptom this
> report opened with is fixed.
>
> What remains is the consequence recorded here: 
> the `Exponent` power has no component lemmas, so `simp` cannot close goals about `d ^ 2`.

## Checked

Lean v4.33.0, full `Physlib` build in both configurations, no errors:

- attribute on `Pow (Dimension B) ℚ`, on `4a4de62f` — 4557 jobs
- attribute on an `Exponent`-valued power, on #1579's head `da1ef39f` — 4558 jobs

~~Integer powers are unaffected: defaulting only applies to unascribed numerals, so `d ^ n` for
`n : ℕ` is unchanged.~~

> [!NOTE]
> **Corrected.** An *ascribed* `d ^ (n : ℕ)` is unchanged, but an unascribed `d ^ 2` also moves to
> the `Exponent` power, so the `npow_*` component lemmas stop covering it. Details and a patch:
> https://github.com/leanprover-community/physlib/pull/1579#issuecomment-5433429233

Happy to open a PR for whichever route is preferred.

### PR DESCRIPTION
**Pull request by NicolasRouquette**
Closes #1580.

## What this does

Adds `epow_length`, `epow_time`, `epow_mass`, `epow_charge`, `epow_temperature` — the
`Exponent`-power twins of the existing `npow_*` component lemmas — derived through a
`component_epow` helper that mirrors `component_npow` line for line. One file, +41 lines,
no existing declaration touched.

This is `Toy3` from https://github.com/NicolasRouquette/PL1580, **without** the notation, as
you asked in #1580.

## Why

`Pow (Dimension B) Exponent` carries `@[default_instance 10000]`, so an unascribed numeric
exponent elaborates to an `Exponent` power, not to the `ℕ` one. The `npow_*` lemmas match the
`ℕ` power only, so nothing in the `simp` set reached the component of such a power. Removing
the five new lemmas from the `simp` set recovers that state:

```lean
section
attribute [-simp] epow_length epow_time epow_mass epow_charge epow_temperature

-- `simp` makes no progress on the issue's own case
example (d : Dimension LTMCTDimensionBase) : (d ^ 2).length = d.length * 2 := by
  fail_if_success simp
  rfl

-- nor on a general `Exponent` exponent
example (d : Dimension LTMCTDimensionBase) (c : Exponent) : (d ^ c).length = d.length * c := by
  fail_if_success simp
  rfl

-- on the half-power it rewrites `1/2` to `2⁻¹` on both sides, but still does not close it
example (d : Dimension LTMCTDimensionBase) : (d ^ (1/2)).length = d.length * (1/2) := by
  fail_if_success (simp; done)
  rfl
end
```

## Evidence

Every goal below is also true by `rfl`, so a bare `by simp` would demonstrate nothing about
the lemma. Each is paired instead: `simp` cannot reach the goal on its own, and can with the
lemma named.

```lean
example (d : Dimension LTMCTDimensionBase) (c : Exponent) : (d ^ c).length = d.length * c := by
  fail_if_success simp only []
  simp only [epow_length]

example (d : Dimension LTMCTDimensionBase) (c : Exponent) : (d ^ c).time = d.time * c := by
  fail_if_success simp only []
  simp only [epow_time]

example (d : Dimension LTMCTDimensionBase) (c : Exponent) : (d ^ c).mass = d.mass * c := by
  fail_if_success simp only []
  simp only [epow_mass]

example (d : Dimension LTMCTDimensionBase) (c : Exponent) : (d ^ c).charge = d.charge * c := by
  fail_if_success simp only []
  simp only [epow_charge]

example (d : Dimension LTMCTDimensionBase) (c : Exponent) :
    (d ^ c).temperature = d.temperature * c := by
  fail_if_success simp only []
  simp only [epow_temperature]

-- `npow_length` does not match an unascribed literal — this is what #1580 reported
example (d : Dimension LTMCTDimensionBase) : (d ^ 2).length = d.length * 2 := by
  fail_if_success simp only [npow_length]
  simp only [epow_length]

-- and the `ℕ` power is untouched: an ascribed exponent still routes to `npow_length`
example (d : Dimension LTMCTDimensionBase) (n : ℕ) : (d ^ n).length = n • d.length := by
  fail_if_success simp only [epow_length]
  simp only [npow_length]
```

`lake build` and `lake exe lint_all` exit 0; `./scripts/lint-style.sh` clean.

## Two things deliberately left out

- **The `d ^[1/2]` notation** (`Toy3`'s Q3), per your call in #1580.
- **`qpow_*` component lemmas.** The `ℚ` power is never selected for an unascribed literal —
  only an explicit `q : ℚ` reaches it — so it needs no defaulting rescue, and five more
  `@[simp]` lemmas for it would be speculative. See the last section.

I also gave `component_epow` the same `private` visibility as `component_npow`.

The reason: `LTMCTDimensionBase` is the only basis in Physlib with named component
projections — `ISQDimensionBase` and the `ParametricDimensionExamples` bases go through
`exponent` directly, where the existing basis-generic `epow_exponent` already applies — so
there is no caller for a public or basis-generic version today.

## On deleting `Pow (Dimension B) ℚ`

You floated this in #1580. Having checked it: the instance is removable at very low cost, and
this PR does not depend on the answer either way.

`Pow (Dimension B) ℚ` and `Pow (Dimension B) Exponent` have the same body, differing only in
where `ofRat` is applied (`Physlib/Units/Dimension.lean`):

```
instance : Pow (Dimension B) ℚ where
  pow d q := ofFunction fun b => d.exponent b * Exponent.ofRat q

@[default_instance 10000]
instance : Pow (Dimension B) Exponent where
  pow d c := ofFunction fun b => d.exponent b * c
```

So the `ℚ` power is definitionally the `Exponent` power at `ofRat`:

```lean
example (d : Dimension LTMCTDimensionBase) (q : ℚ) :
    d ^ q = d ^ (Dimension.Exponent.ofRat q) := rfl
```

**Inside Physlib, deleting it costs nothing at all.** Not a survey: I deleted the instance
and `qpow_exponent` together and ran `lake build`, which completed with exit 0 across
`Physlib`, `PhyslibAlpha`, and `QuantumInfo`. Nothing in the library raises a `Dimension` to
a ℚ-typed exponent, and `qpow_exponent` has no use outside its own declaration.

**Downstream, the port is mechanical but I can only speak for one case.** A statement of the
shape `b.dim = a.dim ^ (p : ℚ)` — a half-power certificate, say — restates as
`b.dim = a.dim ^ Exponent.ofRat p` and is the *same proposition* by `rfl`, so the exponent
stays rational in the signature and nothing weakens. I ported one such certificate in a
library of mine and it took two edits: `Exponent.ofRat p` in the statement, and
`epow_exponent` in place of `qpow_exponent` in the `simp only`. The rest of the proof was
untouched. That is one data point, not a claim about every downstream user.

So the trade is: whoever holds a genuine `q : ℚ` writes an extra `Exponent.ofRat`, against
one fewer competing `Pow` instance on `Dimension` — which is most of what made #1580 hard to
answer in the first place. This looks favorable to me, but it is your call and it is not this
PR.

Either way `epow_*` is what you asked for as `Toy3`. These lemmas are about the `Exponent`
power, which is the one unascribed literals actually select, and that is true whether the ℚ
instance stays or goes.

### CODE REVIEW

File: Physlib/Units/LTMCTDimensionBase.lean [hunk 1]
```diff
@@ -189,6 +189,15 @@ private lemma component_npow (component : Dimension LTMCTDimensionBase → Expon
     _ = n • d.exponent b := npow_exponent d n b
     _ = n • component d := congrArg (n • ·) (h _)
 
+private lemma component_epow (component : Dimension LTMCTDimensionBase → Exponent)
```
Comment (jstoobysmith) [inline Physlib/Units/LTMCTDimensionBase.lean]: Would make this not private

**Review by jstoobysmith — CHANGES_REQUESTED** [review]
One small comment from me

File: Physlib/Units/LTMCTDimensionBase.lean (hunk 1 above)
Comment (NicolasRouquette) [reply Physlib/Units/LTMCTDimensionBase.lean]: Done.

**Review by jstoobysmith — APPROVED** [review]
Looks good. Many thanks - approved
